US07435731B2
Step 3. Preparation of [4-nitro-2-(2-trimethylsilanyl-ethoxymethyl)-2H-pyrazol-3-yl]-methanol
To a 0° C. solution of 4-nitro-2-(2-trimethylsilanyl-ethoxymethyl)-2H-pyrazole-3-carboxylic acid, ethyl ester (10 g, 31.7 mmol) in tetrahydroftiran (200 mL) was added methanol (24 mL) followed by sodium borohydride (9.59 g, 8 eq) in one portion. The resulting mixture was stirred at 0° C. for 20 minutes. The reaction mixture was then added to a mixture of saturated aqueous ammonium chloride solution (600 mL) and ethyl acetate (800 mL) in an ice-bath. A solution of 4 N HCl was added with stirring at 0° C. to adjust the pH of the aqueous layer to about 4. The organic layer was separated and washed with brine (1×500 mL), dried over magnesium sulfate, filtered and concentrated to give the title compound (7.76 g) as a reddish oil. M+=273.

reactant | 4-nitro-2-(2-trimethylsilanyl-ethoxymethyl)-2H-pyrazole-3-carboxylic acid, ethyl ester | 31.7 mmol, 10 g | [N+](=O)([O-])C1=C(N(N=C1)COCC[Si](C)(C)C)C(=O)OCC | C12H21N3O5Si
reactant | sodium borohydride | 9.59 g, 8 eq | [BH4-].[Na+]
reactant | ammonium chloride | 600 mL | [Cl-].[NH4+]
reactant | HCl | 4 N | Cl | ClH
solvent | ethyl acetate | 800 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 24 mL | CO | CH4O
product | [4-nitro-2-(2-trimethylsilanyl-ethoxymethyl)-2H-pyrazol-3-yl]-methanol | 7.76 g | [N+](=O)([O-])C1=C(N(N=C1)COCC[Si](C)(C)C)CO | C10H19N3O4Si
